US07414060B2
6-Methyl-3-(6-methyl-pyrazin-2-ylamino)-pyridine-2-carboxylic acid (1-methyl-1H-pyrazol-3-yl)-amide
The title compound, was prepared from 3-Bromo-6-methyl-pyridine-2-carboxylic acid (1-methyl-1H-pyrazol-3-yl)-amide in accordance with the general method of Example 78, step 3 using 2-Amino-6-methylpyrazine instead of 3-Amino-1-methyl-pyrazole to yield the final compound as a brown solid, MS (ISP): m/e=324.1 (M+H+).

reactant | 3-Bromo-6-methyl-pyridine-2-carboxylic acid (1-methyl-1H-pyrazol-3-yl)-amide | CN1N=C(C=C1)NC(=O)C1=NC(=CC=C1Br)C | C11H11BrN4O
reactant | 2-Amino-6-methylpyrazine | NC1=NC(=CN=C1)C | C5H7N3
product | 6-Methyl-3-(6-methyl-pyrazin-2-ylamino)-pyridine-2-carboxylic acid (1-methyl-1H-pyrazol-3-yl)-amide | CN1N=C(C=C1)NC(=O)C1=NC(=CC=C1NC1=NC(=CN=C1)C)C | C16H17N7O
